US06335324B1
a) Biphenylacetyl chloride
Oxalyl chloride (246 μl, 2.86 mmol) and one drop of dimethylformamide were added dropwise to a suspension of biphenylacetic acid (30 mg, 1.41 mmol) in methylene chloride (10 ml). The mixture was stirred at room temperature for 20 minutes. The solvent was evaporated and the residue was coevaporated with toluene twice to give 310 mg of the title product as a yellow solid.

reactant | Oxalyl chloride | 2.86 mmol, 246 μl | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | biphenylacetic acid | 1.41 mmol, 30 mg | C=1(C(=CC=CC1)CC(=O)O)C1=CC=CC=C1 | C14H12O2
catalyst | dimethylformamide | one drop | CN(C=O)C | C3H7NO
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | Biphenylacetyl chloride | 310 mg | C=1(C(=CC=CC1)CC(=O)Cl)C1=CC=CC=C1 | C14H11ClO
